US08349880B2
Methyl 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate, hydroiodide (1.108 g, 2.61 mmol, from preparation A) and 6-chloro-2-(4-(2,2-difluoroethoxy)phenyl)hexanoic acid (1.0 g, 3.26 mmol, from preparation AX) were coupled [N-methylmorpholine (1.43 mL, 13.0 mmol) was substituted for N,N-diisopropylethylamine] and then reacted with hydrazine (0.410 mL, 13.1 mmol) using a procedure analogous to Step A of Example 13. After an aqueous workup, 5-(5-chloro-1-(4-(2,2-difluoroethoxy)phenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine was obtained as a brown solid. The crude product was used in the next step without purification. LC-MS (M+H)+ 551.5.

reactant | Methyl 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate, hydroiodide | I.ClC=1N=CN(C1)C1=C(C=C(C=C1)NC(=N)SC)OC
reactant | 6-chloro-2-(4-(2,2-difluoroethoxy)phenyl)hexanoic acid | 3.26 mmol, 1.0 g | ClCCCCC(C(=O)O)C1=CC=C(C=C1)OCC(F)F | C14H17ClF2O3
reactant | N-methylmorpholine | 13.0 mmol, 1.43 mL | CN1CCOCC1 | C5H11NO
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrazine | 13.1 mmol, 0.410 mL | NN | H4N2
product | 5-(5-chloro-1-(4-(2,2-difluoroethoxy)phenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine | ClCCCCC(C1=CC=C(C=C1)OCC(F)F)C1=NC(=NN1)NC1=CC(=C(C=C1)N1C=NC(=C1)Cl)OC | C25H26Cl2F2N6O2
